US07074819B2
To a solution of (3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-4-[9-(4,4,5,5,5-pentafluoropentylthio)nonyl]chroman (204 mg, 0.314 mmol) in EtOH (2 ml) was added 6N HCl (0.2 ml, 1.2 mmol). The resulting solution was stirred between 40 and 45° C. for 17 hr, and then poured into H2O. The mixture was extracted with AcOEt. The organic layer was washed with saturated aqueous NaCl, dried over Na2SO4, filtered, concentrated, and purified by column chromatography (silica gel, 33% AcOEt/hexane) to afford (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-4-[9-(4,4,5,5,5-pentafluoropentylthio)nonyl]chroman (140 mg, 80%).

reactant | (3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-4-[9-(4,4,5,5,5-pentafluoropentylthio)nonyl]chroman | 0.314 mmol, 204 mg | COCOC1=CC=C2C(C(COC2=C1)C1=CC=C(C=C1)OCOC)CCCCCCCCCSCCCC(C(F)(F)F)(F)F | C33H45F5O5S
reactant | HCl | 1.2 mmol, 6N, 0.2 ml | Cl | ClH
reactant | H2O | O | H2O
solvent | EtOH | 2 ml | CCO | C2H6O
product | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-4-[9-(4,4,5,5,5-pentafluoropentylthio)nonyl]chroman | 140 mg, 80% | OC1=CC=C2C(C(COC2=C1)C1=CC=C(C=C1)O)CCCCCCCCCSCCCC(C(F)(F)F)(F)F | C29H37F5O3S
